US07807672B2
Preparation of 1-tert-butoxycarbonylmethyl-3-methoxymethyl-pyrrolidine-3-carboxylic acid methyl ester
To a stirred mixture of 3-methoxymethyl-pyrrolidine-3-carboxylic acid methyl ester (140 mg, 0.81 mmol), triethylamine (112 μl, 0.82 mmol) and cesium carbonate (263 mg, 0.81 mmol) in acetonitrile (2 ml) was added tert-butyl bromoacetate (119 μl, 0.81 mmol) slowly. The mixture was stirred for 15 minutes, filtered and concentrated. The residue was purified by column chromatography on silica gel. Elution with a solution of ethyl acetate and hexanes (1:2) provided 118 mg (51%) of the title compound.

reactant | 3-methoxymethyl-pyrrolidine-3-carboxylic acid methyl ester | 0.81 mmol, 140 mg | COC(=O)C1(CNCC1)COC | C8H15NO3
reactant | triethylamine | 0.82 mmol, 112 μl | C(C)N(CC)CC | C6H15N
reactant | cesium carbonate | 0.81 mmol, 263 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl bromoacetate | 0.81 mmol, 119 μl | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-tert-butoxycarbonylmethyl-3-methoxymethyl-pyrrolidine-3-carboxylic acid methyl ester | 118 mg, 51% | COC(=O)C1(CN(CC1)CC(=O)OC(C)(C)C)COC | C14H25NO5
